US07199135B2
2-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE:
Example 90 was prepared from 2-(4-chlorophenyl)propanoic acid and N{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.06 (d, 1H, J=8.0 Hz), 7.75 (s, 1H), 7.64 (t, 1H, J=7.6 Hz), 7.34–7.27 (m, 4H), 7.22 (br s, 1H), 6.89 (d, 1H, J=7.6 Hz), 3.53 (q, 1H, J=7.2 Hz), 3.36 (m, 1H), 3.29 (m, 1H), 3.05 (d, 1H, J=11.6 Hz), 2.95 (d, 1H, J=10.4 Hz), 2.58 (m, 1H), 2.45–2.40 (m, 3H), 2.02–1.63 (m, 8H), 1.50 (d, 3H, J=7.2 Hz), 1.22 (dd, 6H, J=1.6, 6.8 Hz); ESMS m/e: 471.2 (M+H)+.

reactant | 2-(4-chlorophenyl)propanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | N{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=NC(=CC=C1)NC(C(C)C)=O)C | C26H35ClN4O2
